US06080781
Synthesis of 6-hydroxy-2-piperonylidene-1-tetralone
After 6-hydroxy-1-tetralone 1.0 g and piperonal 1.11 g were added to a mixture of concentrated hydrochloric acid 50 ml and methanol 75 ml, the mixture was refluxed for 0.5 hours and cooled to room temperature, and the precipitated crystals were filtered. The crystals were dried over phosphorous pentoxide for four hours under reduced pressure to obtain the desired compound 1.63 g.

reactant | 6-hydroxy-1-tetralone | 1.0 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | piperonal | 1.11 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | methanol | 75 ml | CO | CH4O
product | 6-hydroxy-2-piperonylidene-1-tetralone | 1.63 g | OC=1C=C2CCC(C(C2=CC1)=O)=CC1=CC=2OCOC2C=C1 | C18H14O4
